US08076345B2
5-Chloro-2-{4-[(R)-1-(2-methoxy-pyrimidin-5-yl)-ethylamino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-benzonitrile
A reaction mixture of 5-chloro-2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile (130 mg, 0.41 mmol) and (R)-1-(2-methoxypyrimidin-5-yl)ethanamine (85 mg, 0.55 mmol) (prepared similarly according to the method for Intermediate 16) in acetonitrile (3 mL) and N,N-diisopropylethylamine (140 μL, 0.83 mmol) was subjected to microwave irradiation at 180° C. for 3 h. The reaction mixture was concentrated and the residue was purified by semi-preparative HPLC (100×20.2 mm, C18 column; 30-60% acetonitrile-water [10 mM Et2NH]) to yield a white solid.

reactant | 5-chloro-2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | 0.41 mmol, 130 mg | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2Cl)CC1 | C14H10Cl2N4
reactant | (R)-1-(2-methoxypyrimidin-5-yl)ethanamine | 0.55 mmol, 85 mg | COC1=NC=C(C=N1)[C@@H](C)N | C7H11N3O
reactant | N,N-diisopropylethylamine | 0.83 mmol, 140 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 5-Chloro-2-{4-[(R)-1-(2-methoxy-pyrimidin-5-yl)-ethylamino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-benzonitrile | ClC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2N[C@H](C)C=2C=NC(=NC2)OC)CC1 | C21H20ClN7O
